US06797731B2
(±)-[4-(2,4-Dihydroxyphenyl)cyclohexylidene]acetonitrile
To a round bottomed flask was added (±)-{4-[2,4-bis(methoxymethoxy)phenyl]cyclohexylidene}acetonitrile (141 mg) and methanol (5 ml). The reaction mixture was stirred, the solution was heated under reflux temperature and aqueous hydrochloric acid (5 ml, 1.0M) was added slowly. Heating was continued for 1 hr and the reaction mixture was allowed to cool to room temperature prior to the addition of saturated aqueous sodium bicarbonate solution (12 ml). The reaction mixture was partitioned between ethyl acetate (30 ml) and water (10 ml). The aqueous layer was extracted with ethyl acetate (3×15 ml) and the combined organic layers washed with brine (20 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified via flash column chromatography (SiO2, ethyl acetate/petroleum ether, 1:1, v/v) to afford the title compound (90 mg, 88%) as a white solid. m/z (ES−) 228 (M−H+); δH (CD3OD) 1.56-1.68 (2H, m), 2.02-2.14 (2H, m), 2.33-2.48 (2H, m), 2.57 (1H, m), 3.01 (1H, m), 3.14 (1H, m), 5.31 (1H, s), 6.27 (1H, dd), 6.32 (1H, d), 6.80 (1H, d).

reactant | (±)-{4-[2,4-bis(methoxymethoxy)phenyl]cyclohexylidene}acetonitrile | 141 mg | COCOC1=C(C=CC(=C1)OCOC)C1CCC(CC1)=CC#N | C18H23NO4
reactant | hydrochloric acid | 1.0M, 5 ml | Cl | ClH
reactant | sodium bicarbonate | 12 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | (±)-[4-(2,4-Dihydroxyphenyl)cyclohexylidene]acetonitrile | 90 mg, 88% | OC1=C(C=CC(=C1)O)C1CCC(CC1)=CC#N | C14H15NO2
